US07572817B2
N-methylphenethylamine (20 μL, 0.14 mmoL), HATU (55 mg, 0.15 mmoL) and iPr2EtN (46 μL, 0.26 mmoL) was added to a solution of 3-{5-tert-butoxy-4-({6-[(tert-butoxycarbonyl) amino]pyridin-3-yl}methyl)-3-[(4-methoxybenzyl)thio]-5-oxopentyl}benzoic acid (84 mg, 0.132 mmol) in DMF (2 mL) under argon at 0° C. The reaction mixture was stirred for 2 h and was then quenched with ice. Diethylether and water was added and the aqueous phase was extracted diethyl ether. The combined organic phase was dried and concentrated. Flash chromatography (heptan/EtOAc, 3:1) gave tert-butyl 2-({6-[(tert-butoxycarbonyl)amino]pyridin-3-yl}methyl)-3-[(4-methoxybenzyl)thio]-5-(3-{[methyl(2-phenylethyl)amino]carbonyl}phenyl)pentanoate (81 mg, 81.4%).

reactant | N-methylphenethylamine | 20 μL | CNCCC1=CC=CC=C1 | C9H13N
reactant | HATU | 55 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | iPr2EtN | 46 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-{5-tert-butoxy-4-({6-[(tert-butoxycarbonyl) amino]pyridin-3-yl}methyl)-3-[(4-methoxybenzyl)thio]-5-oxopentyl}benzoic acid | 0.132 mmol, 84 mg | C(C)(C)(C)OC(C(C(CCC=1C=C(C(=O)O)C=CC1)SCC1=CC=C(C=C1)OC)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C35H44N2O7S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | tert-butyl 2-({6-[(tert-butoxycarbonyl)amino]pyridin-3-yl}methyl)-3-[(4-methoxybenzyl)thio]-5-(3-{[methyl(2-phenylethyl)amino]carbonyl}phenyl)pentanoate | 81 mg, 81.4% | C(C)(C)(C)OC(=O)NC1=CC=C(C=N1)CC(C(=O)OC(C)(C)C)C(CCC1=CC(=CC=C1)C(=O)N(CCC1=CC=CC=C1)C)SCC1=CC=C(C=C1)OC | C44H55N3O6S
